US20010021718A1
(3R)-3-{3-[(2-Amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoic acid
A solution of tert-butyl (3R)-3-{3-[(2-amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate (Preparation 90) (280 mg, 0.86 mmol) in dichloromethane (7 ml) was treated with trifluoroacetic acid (3 ml) and stirred at room temperature for 4 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene and dichloromethane. The oil was purified by column chromatography on silica gel eluting with a gradient system of 100:0:0 (dichloromethane:methanol:acetic acid) gradually changing to 90:10:1 (dichloromethane:methanol:acetic acid) to afford a colourless oil which was triturated with diethyl ether and filtered to afford the title compound (155 mg).

reactant | tert-butyl (3R)-3-{3-[(2-amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate | 0.86 mmol, 280 mg | NC(COCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1)=O | C21H35N3O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (3R)-3-{3-[(2-Amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoic acid | 155 mg | NC(COCC1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1)=O | C17H27N3O5
